US07105508B1
tert-Butyl 1H-benzimidazol-2-ylmethylcarbamate (8)
3.32 g of a 30% NaOCH3 solution were added to tert-butyl cyanomethylcarbamate (3 g; 19.21 mmol) in 20 ml of CH3OH, and the mixture was stirred at room temperature for 1 h. After addition of 3.4 g of 1,2-phenylenediamine bishydrochloride, the reaction mixture was stirred further overnight and then added to 100 ml of H2O, and the resulting solid was filtered off and dried in vacuo.

reactant | NaOCH3 | O([Na])C
reactant | tert-butyl cyanomethylcarbamate | 19.21 mmol, 3 g | C(#N)CNC(OC(C)(C)C)=O | C7H12N2O2
reactant | 1,2-phenylenediamine bishydrochloride | 3.4 g | Cl.Cl.C1(=C(C=CC=C1)N)N
reactant | H2O | 100 ml | O | H2O
solvent | CH3OH | 20 ml | CO | CH4O
product | tert-Butyl 1H-benzimidazol-2-ylmethylcarbamate | N1C(=NC2=C1C=CC=C2)CNC(OC(C)(C)C)=O | C13H17N3O2
